US04619929
Preparation of 1-(3-chloropropyl)-4-(4-fluorophenyl)-piperazine
26.1 g (0.166 mole) of 1-bromo-3-chloropropane and 33.6 g (0.333 mole) of triethylamine are added to 30.0 g (0.166 mole) of 1-(4-fluorophenyl)-piperazine in 50 ml of tetrahydrofuran. The reaction mixture is stirred for 16 hours at from 60° to 65° C., cooled and filtered, the solvent is stripped off under reduced pressure, and the crude product is distilled under reduced pressure from an oil pump. The product distils at 135°-145° C./0.05 mm Hg in a yield of 30.0 g (70%).

reactant | 1-bromo-3-chloropropane | 0.166 mole, 26.1 g | BrCCCCl | C3H6BrCl
reactant | triethylamine | 0.333 mole, 33.6 g | C(C)N(CC)CC | C6H15N
reactant | 1-(4-fluorophenyl)-piperazine | 0.166 mole, 30.0 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(3-chloropropyl)-4-(4-fluorophenyl)-piperazine | ClCCCN1CCN(CC1)C1=CC=C(C=C1)F | C13H18ClFN2
